US04321374
N,N'-Bis[2,4-bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-1,3,5-triazine-6-yl]-hexamethylenediamine
2,4-Bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-chloro-1,3,5-triazine (20.5 g) and hexamethylenediamine (2.0 g) were dissolved in xylene (700 ml), and the mixture was refluxed for 12 hours. The xylene was distilled off from the reaction mixture, and the residue was put into aqueous ammonia, extracted with chloroform and dried over anhydrous magnesium sulfate. The residue obtained by removing the chloroform was chromatographed through silica gel (eluent=ethyl acetate:triethylamine:ethanol=5:1:5), giving the desired product as white crystals with a melting point of 165°-168° C.

reactant | 2,4-Bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-chloro-1,3,5-triazine | 20.5 g | OC(CNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)Cl)C1CC(NC(C1)(C)C)(C)C | C25H46ClN7O2
reactant | hexamethylenediamine | 2.0 g | NCCCCCCN | C6H16N2
solvent | xylene | 700 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N,N'-Bis[2,4-bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-1,3,5-triazine-6-yl]-hexamethylenediamine | OC(CNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)NCCCCCCNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)NCC(O)C1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C | C56H106N16O4
